US09290499B2
A microwave tube was charged with 3-bromo-6-(methylthio)-1H-pyrazolo[3,4-d]pyrimidine (1.0 g, 4.0 mmol), phenylboronic acid (1.5 g, 12 mmol), potassium phosphonate (2.5 g, 12 mmol), tetrakis(triphenylphosphine)palladium (0.35 g, 0.30 mmol), dioxane (16 mL) and water (4 mL). The mixture was heated in microwave at 150° C. for 20 min. The reaction mixture was poured into water. The aqueous layer was extracted with EtOAc (10×). The combined organic layer was dried (Na2SO4), concentrated, and purified to provide 6-(methylthio)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidine (0.85 g, 87%) as a white solid. MS m/z 243.1 [M+H]+.

reactant | 3-bromo-6-(methylthio)-1H-pyrazolo[3,4-d]pyrimidine | 4.0 mmol, 1.0 g | BrC1=NNC2=NC(=NC=C21)SC | C6H5BrN4S
reactant | phenylboronic acid | 12 mmol, 1.5 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphonate | 12 mmol, 2.5 g | P([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 16 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.30 mmol, 0.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 4 mL | O | H2O
product | 6-(methylthio)-3-phenyl-1H-pyrazolo[3,4-d]pyrimidine | 0.85 g, 87% | CSC1=NC=C2C(=N1)NN=C2C2=CC=CC=C2 | C12H10N4S
